US04259104
Following the procedure of Example IIA, 2,4-dichlorophenoxyacetic acid hydrazide (23.5 g) and carbon disulfide (38 g) in DMF (50 ml) were reacted and worked up to yield 2-(2,4-dichlorophenoxymethyl)-1,3,4-oxadiazol-5-thione (IIIA).

reactant | 2,4-dichlorophenoxyacetic acid hydrazide | 23.5 g | ClC1=C(OCC(=O)NN)C=CC(=C1)Cl | C8H8Cl2N2O2
reactant | carbon disulfide | 38 g | C(=S)=S | CS2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(2,4-dichlorophenoxymethyl)-1,3,4-oxadiazol-5-thione | ClC1=C(OCC2OC(N=N2)=S)C=CC(=C1)Cl | C9H6Cl2N2O2S
